US08084483B2
A mixture of aminoguanidine hydrochloride (3.18 g, 29 mmol), 1-cyclopropyl-4-isothiocyanatonaphthalene (3.24 g, 14 mmol) and diisopropylethylamine (3 eq) in DMF (20 mL) was stirred at 50° C. for 15 hours. The solvent was removed under reduced pressure, toluene added, and the solvent was evaporated again. Sodium hydroxide solution (2M, 30 mL) was added and the reaction mixture heated at 50° C. for 60 hours. The reaction mixture was filtered and the filtrate neutralized with aqueous HCl (2M). The mixture was re-filtered and the solvent removed under reduced pressure. The residue was purified by silica gel chromatography to yield 5-amino-4-(1-cyclopropylnaphthalen-4-yl)-4H-1,2,4-triazole-3-thiol (2.0 g, 49%).

reactant | aminoguanidine hydrochloride | 29 mmol, 3.18 g | C(=N)(N)NN.Cl
reactant | 1-cyclopropyl-4-isothiocyanatonaphthalene | 14 mmol, 3.24 g | C1(CC1)C1=CC=C(C2=CC=CC=C12)N=C=S | C14H11NS
reactant | diisopropylethylamine | 3 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-amino-4-(1-cyclopropylnaphthalen-4-yl)-4H-1,2,4-triazole-3-thiol | 2.0 g, 49% | NC=1N(C(=NN1)S)C1=CC=C(C2=CC=CC=C12)C1CC1 | C15H14N4S
